* C:\DATA\Dropbox\Volodyne\Volodyne Engineering\00 PCB\PLC_Connector\14.X.4 - PMOS - PLC Connector Combined\SIMULATION\SWITCH_TEST.asc
R1 N002 N003 6.2k
R2 N001 N002 6.2k
R3 N006 N005 2k
R4 0 N006 3k
M1 N004 N002 N001 N001 SQ4917EY_Q2
M2 N003 N006 0 0 2N7002
R5 N004 0 120
V2 N001 0 23V
D1 0 N004 1N4007
D2 0 N003 1N4007
C1 N005 0 100µ V=25 Irms=102m Rser=0.5 Lser=2.9n mfg="Würth Elektronik" pn="865090445008 WCAP-ASLU 6,3x7,7" type="Al electrolytic" IC=25
.model D D
.lib C:\Users\dj1en\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\dj1en\AppData\Local\LTspice\lib\cmp\standard.mos
.tran .1
.backanno
.end
